US03979518
Preparation of 2-Cyano-2-methoxyimino-N-(methoxymethylcarbamoyl)acetamide
To a suspension of 2.70 g. of 2-cyano-2-methoxyiminoacetamide in 10 ml. of tetrahydrofuran was added 1.20 g. of a 55% suspension of sodium hydride in mineral oil in portions with stirring. After stirring for 15 minutes, 2.40 g. of methoxymethylisocyanate was added dropwise. The mixture was stirred at 50°C. for 3 minutes to ensure completion of the reaction. The mixture was then cooled in an ice bath, and a solution of 1.9 ml. of acetic acid in 120 ml. of ice water was added rapidly with stirring. After stirring for another 25 minutes, 2-cyano-2-methoxyimino-N-methoxymethylcarbamoylacetamide was collected on a filter, washed with water and ether, and dried. The product weighed 2.7 g. and melted at 163.5°-165°C.

reactant | 2-cyano-2-methoxyiminoacetamide | C(#N)C(C(=O)N)=NOC | C4H5N3O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydride | [H-].[Na+]
reactant | methoxymethylisocyanate | COCN=C=O | C3H5NO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Cyano-2-methoxyimino-N-(methoxymethylcarbamoyl)acetamide | C(#N)C(C(=O)NC(NCOC)=O)=NOC | C7H10N4O4
